US04195091
A suspension of 9-bromo-11H-pyrrolo[2,1-b][3]benzazepine-11-one (10.0 g., 0.036 mole) in 100 ml dry tetrahydrofuran, under a nitrogen atmosphere, is stirred in an ice bath. A solution of 1-methylpiperidine-4-magnesium chloride in tetrahydrofuran (76 ml, 0.51 M, 0.039 mole) is added dropwise. Upon completion of addition the solution is allowed to stir at room temperature for one hour after which time the solvent is removed on a film evaporator. The residue is dissolved in 300 ml benzene, the solution stirred and treated with a solution containing one gram of ammonium chloride in 10 ml H2O. After one hour the mixture is filtered and the filter cake washed three times with 100 ml portions of boiling benzene. Upon evaporation of the combined filtrates in vacuo, the residue is chromatographed over a column of 400 g of silica gel packed with chloroform. A non-polar impurity is eluted with chloroform and thereafter the eluant is changed to 2%, then 5% methanol in chloroform. A second contaminant is eluted prior to the product fractions. The product fractions are combined and evaporated to give crude 1-methyl-4-(9-bromo-11-hydroxy-11H-pyrrolo[2,1-b][3]benzazepin-11-yl)piperidine (8.8 g, 65%). The crude product is used directly in the next step without further purification.

reactant | 9-bromo-11H-pyrrolo[2,1-b][3]benzazepine-11-one | 0.036 mole, 10.0 g | BrC1=CC2=C(C=CN3C(C2=O)=CC=C3)C=C1 | C13H8BrNO
reactant | 1-methylpiperidine-4-magnesium chloride | CN1CC[CH-]CC1.[Mg+2].[Cl-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.039 mole, 0.51 M, 76 ml | O1CCCC1 | C4H8O
product | 1-methyl-4-(9-bromo-11-hydroxy-11H-pyrrolo[2,1-b][3]benzazepin-11-yl)piperidine | 8.8 g, 65% | CN1CCC(CC1)C1(C=2N(C=CC3=C1C=C(C=C3)Br)C=CC2)O | C19H21BrN2O
